US05053408
A mixture of 4.94 g (21.7 mmols) of 3,4,5-trimethoxyanthranilic acid and 15.15 g (249.8 mmols) of urea was heated at 145° C for an hour with stirring. After cooling, water was added and the mixture was heated at the boiling point with stirring. The solid was taken out by filtration and dried to afford 2.47 g (yield: 45%) of 6,7,8-trimethoxyquinazoline-2,4-dione.

reactant | 3,4,5-trimethoxyanthranilic acid | 21.7 mmols, 4.94 g | COC1=C(C(C(=O)O)=CC(=C1OC)OC)N | C10H13NO5
reactant | urea | 249.8 mmols, 15.15 g | NC(=O)N | CH4N2O
solvent | water | O | H2O
product | 6,7,8-trimethoxyquinazoline-2,4-dione | 2.47 g, yield: 45% | COC=1C=C2C(NC(NC2=C(C1OC)OC)=O)=O | C11H12N2O5
